US07678795B2
(1SR,8RS)-5-(2-Chloro-4-fluoro-phenyl)-3,4-diaza-tricyclo[6.2.1.02,7]undeca-2(7),3,5-triene
yellow gum. MS (EI): 274.1 (MH+). Prepared from bicyclo[2.2.1]heptane-2,3-dione, [2-(2-Chloro-4-fluoro-phenyl)-2-oxo-ethyl]-phosphonic acid dimethyl ester, hydrazine monohydrate.

reactant | bicyclo[2.2.1]heptane-2,3-dione | C12C(C(C(CC1)C2)=O)=O | C7H8O2
reactant | [2-(2-Chloro-4-fluoro-phenyl)-2-oxo-ethyl]-phosphonic acid dimethyl ester | COP(OC)(=O)CC(=O)C1=C(C=C(C=C1)F)Cl | C10H11ClFO4P
reactant | hydrazine monohydrate | O.NN
product | (1SR,8RS)-5-(2-Chloro-4-fluoro-phenyl)-3,4-diaza-tricyclo[6.2.1.02,7]undeca-2(7),3,5-triene | ClC1=C(C=CC(=C1)F)C=1N=NC=2C3CCC(C2C1)C3 | C15H12ClFN2
